US04912104
1-Butyl-3-propyl-5,6,7,8-tetrahydropyrimido[2',1':5,1]pyrazolo[3,4-d]pyrimidine-2,4(1H,3H)-dione
To a stirred solution of 3-amino-7-butyl-2-(3-chloropropyl)-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione(2.1 g) in DMF(30 ml) was added sodium hydride(60% oil, 0.7 g) in portions under ice-cooling. The mixture was stirred at room temperature for further 5 hours. The reaction mixture was concentrated to dryness and the concentrate was added to ice-water. The mixture was stirred for a while, whereupon crystals precipitated out. The crystals were collected by filtration and recrystallized from aqueous alcohol to afford colorless crystals(0.6 g, 32%), m.p. 147°-150° C.

reactant | 3-amino-7-butyl-2-(3-chloropropyl)-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2.1 g | NC=1N(N=C2N(C(N(C(C21)=O)CCC)=O)CCCC)CCCCl | C15H24ClN5O2
reactant | sodium hydride | 0.7 g | [H-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-Butyl-3-propyl-5,6,7,8-tetrahydropyrimido[2',1':5,1]pyrazolo[3,4-d]pyrimidine-2,4(1H,3H)-dione | 0.6 g, 32% | C(CCC)N1C(N(C(C=2C1=NN1C2NCCC1)=O)CCC)=O | C15H23N5O2
